US06689922B1
2-Hydroxymethyl-4-{2-[3-(5-hydroxy-5-methylhexyl)phenyl]vinyl}phenol
In a manner similar to Example 8(k), by reacting 313 mg (0.67 mmol) of 2,2-dimethyl-6-(2-{3-[5-methyl-5-(tetrahydropyran-2-yloxy)hexyl]phenyl}vinyl)-4H-benzo[1.3]dioxin in 10 ml of acetic acid, 5 ml of THF and 2.5 ml of water, and after purification on a silica column (ethyl acetate 40-heptane 60), white crystals (m=91 mg; Y=40%) are obtained. m.p.=130-1° C.

reactant | 2,2-dimethyl-6-(2-{3-[5-methyl-5-(tetrahydropyran-2-yloxy)hexyl]phenyl}vinyl)-4H-benzo[1.3]dioxin | 0.67 mmol, 313 mg | CC1(OC2=C(CO1)C=C(C=C2)C=CC2=CC(=CC=C2)CCCCC(C)(OC2OCCCC2)C)C | C30H40O4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 2.5 ml | O | H2O
product | 2-Hydroxymethyl-4-{2-[3-(5-hydroxy-5-methylhexyl)phenyl]vinyl}phenol | OCC1=C(C=CC(=C1)C=CC1=CC(=CC=C1)CCCCC(C)(C)O)O | C22H28O3
